US07678801B2
3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-1,3-thiazol-2-ylbenzamide
The title compound was prepared from 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide and N,N,N′-trimethyl-1,3-propanediamine by following the procedures in Example 79c. LC-MS m/z 590 (M+H)+; 1H-NMR (MeOD) 1.70 (m, 2 H), 2.04 (m, 2 H), 2.20 (s, 6 H), 2.36 (s, 3 H), 2.89-3.21 (m, 3 H), 3.36-3.70 (m, 2H), 6.36 (d, J=8.4 Hz, 1 H), 7.16 (m, 1 H), 7.27 (m, 2 H), 7.50 (m, 2 H), 7.59 (m, 2H), 8.01 (s, 1 H), 8.13 (m, 1 H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)S(=O)C)=O | C25H17F2N5O3S2
reactant | N,N,N′-trimethyl-1,3-propanediamine | CN(CCCNC)C | C6H16N2
product | 3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-1,3-thiazol-2-ylbenzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)N(C)CCCN(C)C)=O | C30H29F2N7O2S
